US07087605B2
7-(1-Adamantyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 200 mg (0.52 mmol) crude N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]-1-adamantanecarboxamide, 165 mg (1.1 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The product is purified by chromatography (preparative HPLC).

reactant | N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]-1-adamantanecarboxamide | 0.52 mmol, 200 mg | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C12CC3CC(CC(C1)C3)C2 | C22H32N4O2
reactant | phosphoric trichloride | 1.1 mmol, 165 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(1-Adamantyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C12(CC3CC(CC(C1)C3)C2)C2=NC(=C3C(NC(=NN32)C3CCCC3)=O)CC | C22H30N4O
